US07781476B2
1-(2-Bromobenzenesulfonyl)-1H-indole-3-ylmethanol (D 31)
In a three-necked round bottom flask equipped with pressure equalizing funnel, 1-(2-Bromobenzenesulfonyl)-1H-indole-3-carboxaldehyde (D27 3.63 g, 0.01 mole) and dichloromethane (8 mL) were taken. Sodiumborohydride (0.005-0.01 mole) was added slowly at room temperature and the reaction mixture was stirred well for next 3-4 hours. After the completion of reaction (TLC, 3-5 hours), the product was isolated by distillation under reduced pressure. The residue was extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with water, followed by brine, dried over anhydrous sodium sulfate. The organic layer was evaporated under vacuum. The residue was generally an oily liquid, which was isolated and purified by flash chromatography (silica gel, EtOAc/Hexane, 2/8) to afford the title compound, which was identified by IR, NMR and mass spectral analyses.

reactant | 1-(2-Bromobenzenesulfonyl)-1H-indole-3-carboxaldehyde | 0.01 mole, 3.63 g | BrC1=C(C=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)C=O | C15H10BrNO3S
reactant | Sodiumborohydride | 0.005-0.01 mole | [BH4-].[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 1-(2-Bromobenzenesulfonyl)-1H-indole-3-ylmethanol | BrC1=C(C=CC=C1)S(=O)(=O)N1C=C(C2=CC=CC=C12)CO | C15H12BrNO3S
